US06593374B2
To a stirred solution of n-butyllithium (15.0 mL, 1.6 M in hexane solution, 24.0 mmol) in dry ether (160 mL), a solution of 3,4,5-trimethoxyphenylbromide (2.97 g, 12.0 mmol) in ether (40 mL) was added under dry nitrogen at −78° C. The solution was stirred for 1 h in order to form 3,4,5-trimethoxyphenyllithum. 6-Methoxy-5-nitro-1-tetralone (2.65 g, 12.0 mmol) was added at −20° C., and the stirring was continued for 2 h (−20° C.-rt). The mixture was partitioned between CH2Cl2 and water, the organic layer was dried over anhydrous sodium sulfate, and, after filtration, the organic layer was concentrated in vacuo, to afford 1-Hydroxy-6-methoxy-5-nitro-1-(3′,4′,5′-trimethoxyphenyl)tetralin 17 as a crude yellow oil. (GC-MS shows the yield is about 55%) This compound, without purification, was added to a refluxing mixture of acetic acid (10 mL) and water (80 mL), and iron (0.5 g) was added. After heating at reflux for 1 h, the mixture was partitioned between CH2Cl2 (3*100 mL) and water (100 mL). The organic layer was washed with NaHCO3 (sat.) and water (100 mL each), dried over anhydrous sodium sulfate, and, after filtration, the organic layer was concentrated in vacuo to provide a yellow oil. Purification by column chromatography afforded 5-Amino-6-methoxy-1-(3′,4′,5′-trimethoxyphenyl)-3,4-dihydronaphthalene 15 (2.03 g, 5.95 mmol). 1H-NMR (CDCl3, 300 MHz) δ 2.43 (m, 2H), 2.68 (t, J=7.8 Hz, 2H), 3.84 (s, 6H), 3.86 (s, 3H), 3.89 (s, 3H), 5.93 (t, J=4.7 Hz, 1H), 6.51 (d, J=8.4 Hz, 1H), 6.56 (s, 2H), 6.60 (d, J=8.4 Hz, 1H). 13C-NMR (CDCl3, 75 MHz) δ 22.0, 23.3,56.0, 56.5, 61.3, 106.4, 107.5, 117.2, 121.6, 124.5, 128.6, 132.8, 137.4, 137.6, 140.4, 147.5, 153.2. HRMS (EI) M+, calcd for C20H23NO4 341.1627, found 341.1635. Anal. Calcd for C20H23NO4: C, 70.36; H, 6.79; N: 4.10. Found: C, 70.24; H, 6.74; N, 4.08.

reactant | n-butyllithium | 24.0 mmol, 1.6 M, 15.0 mL | C(CCC)[Li]
reactant | 3,4,5-trimethoxyphenylbromide | 12.0 mmol, 2.97 g | COC=1C=C(C=C(C1OC)OC)Br | C9H11BrO3
solvent | ether | 160 mL | CCOCC | C4H10O
solvent | ether | 40 mL | CCOCC | C4H10O
product | 3,4,5-trimethoxyphenyllithum | COC=1C=C(C=C(C1OC)OC)[Li] | InChI=1S/C9H11O3.Li/c1-10-7-5-4-6-8(11-2)9(7)12-3;/h5-6H,1-3H3;
